US07572820B2
C. 4-Chloro-1-(1,3-thiazol-4-ylmethyl)-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile
Synthesized as described in Example 197B from 4-chloro-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile and 4-(chloromethyl)-1,3-thiazole hydrochloride: MS (ESI) m/z 343 (M+1).

reactant | 4-chloro-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2NC(=NC21)C(F)(F)F)C#N | C9H3ClF3N3
reactant | 4-(chloromethyl)-1,3-thiazole hydrochloride | Cl.ClCC=1N=CSC1
product | 4-Chloro-1-(1,3-thiazol-4-ylmethyl)-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2N(C(=NC21)C(F)(F)F)CC=2N=CSC2)C#N | C13H6ClF3N4S
